US07595403B2
The preparation of 3-Oxo-3H-benzo[d]isothiazole-2-carboxylic acid hexylamide
Following the synthetic procedure of 6a as described in Example 1, compound 6e (82% yield) was synthesized from benzo[d]isothiazol-3-one and n-hexyl isocyanate as a white solid. mp 52-53° C.; IR(CHCl3) 3290, 1711, 1662, 1540 cm−1; 1H-NMR (CDCl3) δ0.80-0.87 (m, 3H), 1.21-1.35 (m, 6H), 1.53-1.61 (m, 2H), 3.34-3.40 (m, 2H), 7.36 (t, J=7.6 Hz, 1H), 7.51 (d, J=7.6 Hz, 1H), 7.63 (t, J=7.6 Hz, 1H), 7.95 (d, J=6.9 Hz, 1H), 8.81 (br s, 1H); ESIMS m/e 279 (M++1).

reactant | benzo[d]isothiazol-3-one | S1NC(C2=C1C=CC=C2)=O | C7H5NOS
reactant | n-hexyl isocyanate | C(CCCCC)N=C=O | C7H13NO
product | 3-Oxo-3H-benzo[d]isothiazole-2-carboxylic acid hexylamide | C(CCCCC)NC(=O)N1SC2=C(C1=O)C=CC=C2 | C14H18N2O2S
